US20010027196A1
2-Amino-4-(3,5-dimethyl-pyridin-2-yl-methoxy)-6-pyridin-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile, 3,5-dimethyl-2-pyridinemethanol and DBU in DME. EI-MS m/e (%): 332 (M+, 100), 303 (34), 120 (31).

reactant | 2-amino-4-methanesulfinyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C1=NC=CC=C1 | C11H9N5OS
reactant | 3,5-dimethyl-2-pyridinemethanol | CC=1C(=NC=C(C1)C)CO | C8H11NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(3,5-dimethyl-pyridin-2-yl-methoxy)-6-pyridin-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=NC=C(C=C1C)C)C#N)C1=NC=CC=C1 | C18H16N6O
